US06887889B2
To a stirred solution of 3-chloro-4-fluoro-N-[4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-benzenesulfonamide (0.0321 g, 0.04 mmol) in ClCH2CH2Cl (0.5 mL) at room temperature under Ar was added cyclopropanecarboxaldehyde (0.005 mL, 0.048 mmol, 1.2 eq) and HOAc (0.05 mL, 1%v/v). The mixture was stirred for 0.5 h. Na(OAc)3BH (0.015 g, 0.06 mmol, 1.5 eq) was added and the mixture stirred for 16 h, diluted with EtOAc (20 mL) and washed with saturated aqueous NaHCO3 solution (10 mL) and saturated brine (10 mL). The organic layer was dried over anhydrous Na2SO4, filtered, concentrated by rotary evaporation, then dried under high vacuum to give 3-chloro-N-[1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-4-fluorobenzenesulfonamide (0.047 g, 0.04 mmol, 95%). MS (ESI): 563.1/565.1 (M+1).

reactant | 3-chloro-4-fluoro-N-[4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-benzenesulfonamide | 0.04 mmol, 0.0321 g | ClC=1C=C(C=CC1F)S(=O)(=O)NCC1(CCNCC1)C1=CC=C(C=C1)I | C18H19ClFIN2O2S
reactant | cyclopropanecarboxaldehyde | 0.048 mmol, 0.005 mL, 1.2 eq | C1(CC1)C=O | C4H6O
reactant | HOAc | 0.05 mL | CC(=O)O | C2H4O2
reactant | Na(OAc)3BH | 0.06 mmol, 0.015 g, 1.5 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | ClCH2CH2Cl | 0.5 mL | C(CCl)Cl | C2H4Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3-chloro-N-[1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-4-fluorobenzenesulfonamide | 0.04 mmol, 0.047 g, 95% | ClC=1C=C(C=CC1F)S(=O)(=O)NCC1(CCN(CC1)CC1CC1)C1=CC=C(C=C1)I | C22H25ClFIN2O2S
